US07560569B2
In a similar manner to Example 133, 4-tert-butoxycarbonylaminobicyclo[2.2.2]octane-1-carboxylic acid (100 mg) and 4-amino-3-fluorobenzotrifluoride (106 μL) were used to obtain 4-tert-butoxycarbonylamino-N-(2-fluoro-4-trifluoromethylphenyl)bicyclo[2.2.2]octane-1-carboxamide (58.6 mg).

reactant | 4-tert-butoxycarbonylaminobicyclo[2.2.2]octane-1-carboxylic acid | 100 mg | C(C)(C)(C)OC(=O)NC12CCC(CC1)(CC2)C(=O)O | C14H23NO4
reactant | 4-amino-3-fluorobenzotrifluoride | 106 μL | NC1=C(C=C(C=C1)C(F)(F)F)F | C7H5F4N
product | 4-tert-butoxycarbonylamino-N-(2-fluoro-4-trifluoromethylphenyl)bicyclo[2.2.2]octane-1-carboxamide | 58.6 mg | C(C)(C)(C)OC(=O)NC12CCC(CC1)(CC2)C(=O)NC2=C(C=C(C=C2)C(F)(F)F)F | C21H26F4N2O3
